US07790747B2
To a solution of 6-chloro-2,4-dimethyl-nicotinic acid ethyl ester (0.30 g, 1.40 mmol) and 5-pyrimidine boronic acid (0.522 g, 4.21 mmol) in argon-degassed DME/2 M Na2CO3 (4:1, 12.5 ml) was added Pd(PPh3)4 (162 mg, 0.14 mmol) and the mixture heated to 90° C. overnight. The reaction was cooled, diluted with EtOAc (25 ml) and H2O (15 ml). The aqueous layer was extracted with EtOAc (2×10 ml) and the combined organic extracts were dried (Na2SO4), concentrated and purified by column chromatography on silica gel (Hexanes/EtOAc, 3:2) to afford 2,4-dimethyl-6-pyrimidin-5-yl-nicotinic acid ethyl ester (306 mg, 85%). 1H NMR (CDCl3) δ 1.43 (t, 3H, J=6 Hz), 2.44 (s, 3H), 2.64 (s, 3H), 4.47 (q, 2H, J=6 Hz), 7.44 (s, 1H), 9.26 (s, 1H), 9.32 (s, 2H).

reactant | 6-chloro-2,4-dimethyl-nicotinic acid ethyl ester | 1.40 mmol, 0.30 g | C(C)OC(C1=C(N=C(C=C1C)Cl)C)=O | C10H12ClNO2
reactant | 5-pyrimidine boronic acid | 4.21 mmol, 0.522 g | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | DME | 2 M, 12.5 ml | COCCOC | C4H10O2
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
solvent | H2O | 15 ml | O | H2O
catalyst | Pd(PPh3)4 | 0.14 mmol, 162 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,4-dimethyl-6-pyrimidin-5-yl-nicotinic acid ethyl ester | 306 mg, 85% | C(C)OC(C1=C(N=C(C=C1C)C=1C=NC=NC1)C)=O | C14H15N3O2
